US06432963B1
A 135 mg portion of HOBt and 192 mg of WSC·HCl were added to a mixture of 195 mg of (Z)-3-[2-(acetoxy)phenyl]acrylic acid and 10 ml of dichloroethane, followed by stirring for 20 minutes under ice-cooling. Then, 2 ml of DMF solution containing 340 mg of 2-(cis-2-aminocyclohexylamino)-4-(3-methylanilino)pyrimidine-5-carboxamide was added, followed by stirring at room temperature for 2 hours. Water was added to the reaction mixture, followed by extraction with ethyl acetate. The organic layer was dried over anhydrous sodium sulfate and concentrated under a reduced pressure. The resulting residue was purified by silica gel column chromatography (eluting solvent; chloroform:methanel) and then the thus obtained colorless solid was recrystallized from ethyl acetate, thereby obtaining 98 mg of 2-{(Z)-2-[(cis-2-{[5-carbamoyl-4-(3-methylanilino)pyrimidin-2-yl]amino}cyclohexyl)carbamoyl]vinyl}phenyl acetate (colorless crystals).

reactant | HOBt | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | WSC·HCl | 192 mg | CCN=C=NCCCN(C)C.Cl
reactant | (Z)-3-[2-(acetoxy)phenyl]acrylic acid | 195 mg | C(C)(=O)OC1=C(C=CC=C1)\C=C/C(=O)O | C11H10O4
reactant | dichloroethane | 10 ml | ClC(C)Cl | C2H4Cl2
reactant | 2-(cis-2-aminocyclohexylamino)-4-(3-methylanilino)pyrimidine-5-carboxamide | 340 mg | N[C@@H]1[C@@H](CCCC1)NC1=NC=C(C(=N1)NC1=CC(=CC=C1)C)C(=O)N | C18H24N6O
solvent | Water | O | H2O
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 2-{(Z)-2-[(cis-2-{[5-carbamoyl-4-(3-methylanilino)pyrimidin-2-yl]amino}cyclohexyl)carbamoyl]vinyl}phenyl acetate | 98 mg | C(C)(=O)OC1=C(C=CC=C1)\C=C/C(N[C@H]1[C@H](CCCC1)NC1=NC=C(C(=N1)NC1=CC(=CC=C1)C)C(N)=O)=O | C29H32N6O4
